US04994074
COPOLYMER OF ε-CAPROLACTONE/GLYCOLIDE/GLYCOLIC ACID AT 0.90/0.08/0.04 BY MOLE
The procedure of Example 1 is repeated, except that the reaction flask is charged with 9.29 g (0.08 mole) of glycolide and 3.04 g (0.04 mole) of glycolic acid.

reactant | glycolide | 0.08 mole, 9.29 g | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | glycolic acid | 0.04 mole, 3.04 g | C(CO)(=O)O | C2H4O3
product | ε-CAPROLACTONE GLYCOLIDE GLYCOLIC ACID | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1.C(CO)(=O)O | InChI=1S/C6H10O2.C4H4O4.C2H4O3/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3;3-1-2(4)5/h1-5H2;1-2H2;3H,1H2,(H,4,5)
